US06949542B2
7,8-Difluoro-4-[3-(2-methyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from commercially available 4,5-difluoro-1,2-phenylendiamine (400 mg, 2.78 mmol) and 3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K12) (864 mg, 2.78 mmol) in xylene (15 ml) under reflux conditions for 1.5 h according to the general procedure M. Obtained as a light brown solid (780 mg, 77%).

reactant | 4,5-difluoro-1,2-phenylendiamine | 2.78 mmol, 400 mg | FC1=CC(=C(C=C1F)N)N | C6H6F2N2
reactant | 3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 2.78 mmol, 864 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O | C19H21NO3
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7,8-Difluoro-4-[3-(2-methyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | FC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC=C2)C)=O)C=C1F | C21H15F2N3O
